US05049574
Sodium cyanide (1.79 9), dissolved in water (5.6 cc) is added dropwise to a mixture, cooled to 0° C., of bromine (5.8 9) and water (5.6 cc). After 1 hour's contact at 0° C., a solution of 4-trifluoromethoxy-1,2-benzenediamine (7 g) in tetrachloroethane (7 cc) is added dropwise. After 2 hours at 0° C., the reaction mixture is poured into water (500 cc). Dichloromethane (500 cc) is added and the mixture is stirred for 20 minutes. After settling has taken place, the aqueous phase is separated and washed with dichloromethane (2×150 cc) and alkalinized to pH 8 with sodium carbonate. The base is extracted with ethyl acetate (3×300 cc) and the organic phase is dried over magnesium sulphate and evaporated under reduced pressure. Crude base (9.5 g) is obtained, which is purified by preparative HPLC using a dichloromethane/ethanol mixture (95:5 by volume) as eluent. An oil is recovered, which is converted to a hydrochloride in ethyl ether. 5-Trifluoromethoxy-2-benzimidazolamine hydrochloride (4.8 g), m.p. 180° C., is obtained.

reactant | Sodium cyanide | [C-]#N.[Na+]
reactant | bromine | BrBr | Br2
reactant | 4-trifluoromethoxy-1,2-benzenediamine | 7 g | FC(OC=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2O
reactant | Dichloromethane | 500 cc | ClCCl | CH2Cl2
solvent | water | 5.6 cc | O | H2O
solvent | tetrachloroethane | 7 cc | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | water | 500 cc | O | H2O
solvent | water | 5.6 cc | O | H2O
product | 5-Trifluoromethoxy-2-benzimidazolamine hydrochloride | 4.8 g | Cl.FC(OC1=CC2=C(N=C(N2)N)C=C1)(F)F | InChI=1S/C8H6F3N3O.ClH/c9-8(10,11)15-4-1-2-5-6(3-4)14-7(12)13-5;/h1-3H,(H3,12,13,14);1H
